US07582760B2
A solution of 4-(3-benzylamino-2-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.200 g, 0.485 mmol) in 5 mL ethanol was added to a solution sodium dithionite (0.565 g, 3.245 mmol) in 10 mL water, and the reaction mixture was heated to 100° C. The mixture was stirred for 5 minutes, cooled to room temperature, and concentrated in vacuo to remove ethanol. A yellow solid precipitates and was filtered and dried under vacuum for 18 hours to give 0.173 g (0.45 mmol, 90%) of 4-(2-amino-3-benzylamino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester. MS: 383 (M+H)+.

reactant | 4-(3-benzylamino-2-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.485 mmol, 0.200 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NCC1=CC=CC=C1)[N+](=O)[O-] | C22H28N4O4
reactant | sodium dithionite | 3.245 mmol, 0.565 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 4-(2-amino-3-benzylamino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.45 mmol, 0.173 g, 90% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NCC1=CC=CC=C1)N | C22H30N4O2
